"CSstageModel"
.source I1
.detector V_out
.param W=10u L=180n ID=100u R_L=10k R_s=10G
.model myNMOS M gm={g_m} cgs={c_gs} cgb={c_gb} cdg={c_dg} cdb={c_db} go={g_o}
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
M1 out 1 0 0 myNMOS
R1 1 0 R value={R_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 out 0 R value={R_L} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
.end